Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hypoxia/altered Mental Status
 
Major Surgical or Invasive Procedure:
Intubation
 
History of Present Illness:
___ w/ recent onset cirrhosis, recent w/u for transplant likely 
___. Went back to ___ to sort out insurance, and was having 
chronic diarrhea when he presented to ___ in 
early ___ for diarrhea/nausea and was d/c'd ___. He 
represented on ___ with chills, diarrhea, vomitting and 2 
syncopal episodes after standing from seated position. He was 
noted to have waxing and waning mental status and had 
paracentesis ___ which showed 140 wbcs w/ 51% polys. There is 
no culture data available. His mental status continued to wax 
and wane over the next few days but he was ambulatory and A/Ox2. 
Over night ___ he became acutely non-responsive after 
vomiting large amounts of feculent material. His WBC increased 
to 16.5 and he was intubated for airway protection. After 
intubation he required norepinephrine and got a CVL. He was 
started empirically on vanc/zosyn. CT abd did not show 
obstruction. 
. 
In ICU ___ BP 107/61 map 77, HR 74, 16, 36.4 
___ 
.  
In Flight, patient was given some ativan for agitation, and his 
FiO2 was increased to 60% for transport, up from 30% while on 
the floor.  
.  
On the floor, the patient was stable, and his FiO2 was initially 
decreased to 50%. CVP was 14 w/ PEEP 5. 

 
Past Medical History:
-___ Score 11/ class C cirrhosis/NASH
-Crohn's Disease since age ___, s/p ex lap, no history of bowel 
resection  
-H. pylori  
-Primary Biliary cirrhosis (diagnosed at ___ hosp?)
-R. Hydrothorax (___) transudative effusion 
-Morbid obesity/OSA  
-Anemia of Chronic Dz. episode with Hgb 7.5(Hospt with 
transfusions ___ - ___. 
-Hyperkalemia/Hypoalbuminemia
-Depression/Adjustment Disorder
-?Inguinal Hernia on the Right side
 
Social History:
___
Family History:
No family history of cardiac disease, liver disease, cancer or 
renal failure. Mother bipolar d/o. Father emphysema, CAD. 
 
Physical Exam:
On transfer to ___ MICU:
Vitals: T:96.5 Oral BP:107/78  P: 92 on Vent FiO2:51% O2Sat 99% 
General: NCAT, intubated
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Bilateral air entry with decreased breath sounds over 
Lower Right lung field.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: distended, obese, no organomegaly, some ascites noted.  

GU: Foley in place
Ext: warm, well perfused, 2+ pulses, +2 pitting edema 
bilaterally, +1 edema in upper extremities.

 
Pertinent Results:
___ 07:34PM   O2 SAT-76
___ 07:34PM   TYPE-CENTRAL VE TEMP-35.6 RATES-/15 TIDAL 
VOL-550 PEEP-5 O2-50 PO2-45* PCO2-40 PH-7.42 TOTAL CO2-27 BASE 
XS-0 INTUBATED-INTUBATED VENT-SPONTANEOU
___ 07:43PM   O2 SAT-93
___ 07:43PM   TYPE-CENTRAL VE PO2-109* PCO2-36 PH-7.44 
TOTAL CO2-25 BASE XS-0
___ 08:30PM   PLT COUNT-191
___ 08:30PM   NEUTS-81.0* LYMPHS-12.6* MONOS-3.3 EOS-2.6 
BASOS-0.5
___ 08:30PM   WBC-8.2 RBC-2.53* HGB-7.8* HCT-24.7* MCV-98 
MCH-30.8 MCHC-31.6 RDW-17.4*
___ 08:30PM   TRIGLYCER-56
___ 08:30PM   ALBUMIN-2.2* CALCIUM-7.3* PHOSPHATE-3.1 
MAGNESIUM-2.0
___ 08:30PM   ALT(SGPT)-18 AST(SGOT)-24 LD(LDH)-81* ALK 
PHOS-86 TOT BILI-1.6*
___ 08:30PM   estGFR-Using this
___ 08:30PM   GLUCOSE-82 UREA N-14 CREAT-0.9 SODIUM-143 
POTASSIUM-3.8 CHLORIDE-115* TOTAL CO2-24 ANION GAP-8
___ 09:19PM URINE  ___ 09:19PM URINE  ___ BACTERIA-OCC YEAST-NONE 
___ 09:19PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-25 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:19PM URINE  COLOR-Amber APPEAR-Clear SP ___
___ 09:19PM URINE  OSMOLAL-704
___ 09:19PM URINE  HOURS-RANDOM UREA N-554 CREAT-355 
SODIUM-14 POTASSIUM-GREATER TH CHLORIDE-25
___ 09:24PM   TYPE-ART TEMP-35.8 RATES-/___ TIDAL VOL-550 
PEEP-5 O2-50 PO2-118* PCO2-36 PH-7.45 TOTAL CO2-26 BASE XS-2 
INTUBATED-INTUBATED VENT-SPONTANEOU
.
CT abd: 1. No suspicious hepatic lesions identified. Known 
underlying fatty 
infiltration of the liver with sequelae of portal hypertension 
noted including 
recanalized paraumbilical vein. Third spacing involving the 
gallbladder wall 
with mild amount of intra-abdominal ascites and mesenteric 
induration and mild 
cecal/ascending colonic edema, all likely secondary to 
underlying portal 
hypertension. 
  
2. Scattered enlarged mesenteric lymph nodes, presumably 
reactive. Mild 
dilatation and air-fluid levels of the small bowel suggestive of 
mild ileus. 
  
3. Moderate right simple pleural effusion. New infectious or 
inflammatory 
centrilobular and ___ opacities within the left lower 
lobe with mild 
bronchiectasis and bronchial wall thickening. 
  
4. Conventional arterial anatomy. Accessory right hepatic vein 
draining into 
the IVC. 
.
Echo: The left atrium is mildly dilated. The right atrial 
pressure is indeterminate. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). Doppler parameters are most consistent with normal 
left ventricular diastolic function. Right ventricular chamber 
size and free wall motion are normal. The diameters of aorta at 
the sinus, ascending and arch levels are normal. The aortic 
valve leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. There is 
mild pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, the 
detected pulmonary artery systolic pressure is lower.  
.
Left upper ext U/s: No DVT in left upper extremity.
.
CXR: As compared to the previous radiograph, there is unchanged 
position 
of a left PICC line and a nasogastric tube. Unchanged presence 
of a right 
pleural effusion. However, the extent of the effusion has 
decreased in the 
interval. 
.
RUQ U/S:
1. Limited study due to large amount of bowel gas obscuring 
portions of the 
left hepatic lobe and the pancreas. 
2. Where visualized, no focal liver lesion is seen. 
3. Left portal vein not visualized due to bowel gas, otherwise 
hepatic 
vasculature is patent. In particular, main and right portal 
veins are patent 
with normal hepatopetal flow. 
4. Evidence of portal hypertension, with splenomegaly and small 
ascites.  
5. Right pleural effusion. 
.
CT head: No evidence of acute intracranial process.
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of ESLD ___ NASH, 
transferred here for acutely decompensated encephalopathy with 
intubation for airway protection.
.  
# Encephalopathy - likely ___ decreased bowel movements from 
ileus. CT head negative for bleed at OSH. Ileus likely caused by 
electrolyte abnormalities from 2 months of preceding diarrhea 
and pt had bowel surgeries in the past for Crohn's disease with 
small bowel/colonic anastomoses. CT scan showed bowel edema 
which may be ___ ascites and can cause malabsorption. Pt has 
been oriented and non-encephalopathic since extubation. Having 
several bowel movements on lactulose. Rifaximin was started as 
well. Will continue these as outpt.
.
# Ileus - as above, likely from electrolyte abnormalities from 
chronic diarrhea. No evidence of complete SBO at OSH, 
erythromycin was started then discontinued to help move bowels. 
Lactulose and rifaximin will be continued as outpt. Diet was 
successfully advanced and pt was able to tolerate full diet 
prior to discharge. 
.
#ESLD/Cirrhosis - cirrhosis ___ NASH diagnosed on biopsy in 
___, c/b ascites, recurrent R hydrothorax and encephalopathy. 
Unable to do diagnostic para because there was not enough fluid. 
Pt began to undergo liver transplant work-up on this admission. 
We continued Lactulose, rifaximin. Ultrasound of liver showed no 
signs of thrombosis or flow impedance. CT scan did not show 
suspicious liver lesions. Echo and PFTs were done as part of 
transplant work-up. Increased lasix dose and spirinolactone to 
manage peripheral edema. Has recurrent R side hydrothorax which 
was drained once on initial presentation in ___. Stable on CXR 
and not drained on this admission given pt's good respiratory 
status. Will follow up with Dr. ___ the remained of 
pre-transplant evaluation.
.
# Aspiration - intubated at OSH for aspiration ___ vomiting 
feculent material from ileus. CXR showed signs of aspiration 
pneumonitis, pt completed a 7-day course of vanc/zosyn. Prior to 
discharge had no oxygen requirement and was afebrile. All 
cultures were negative (of note, pt had one culture at OSH that 
grew Propionobacterium, which was likely a contaminant).
.
# Anemia - HCT around ___ throughout admission. Received 2U 
RBCs on ___. No evidence of active bleeding, no blood in stool, 
likely chronic. No evidence of hemolysis. Will follow this up as 
outpt. Encouraged pt to take home iron supplement.

 
Medications on Admission:
Medications:  
1. Furosemide 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).
Disp:*28 Tablet(s)* Refills:*0*
2. Spironolactone 25 mg Tablet Sig: Four (4) Tablet PO DAILY 
(Daily).   
.
OUTPATIENT meds: 
1. Melatonin 6 at bedtime
2. Vitamin D3 1000 daily
3. Iron chews 3 times daily
4. Vit C 500 D
5. Spironolactone 100 dialy
6. Zofran q6h PRN nausea
7. Lasix 40 daily
8. Oxycodone ___ two tabs q6hrs prn pain.  
.
MEDICATIONS ON TRANSFER: 
1. Versed 5mg q 5 minutes as needed for agitation/anxiety
2. Lactulose Enema 200g/L Twice Daily
3. Pantoprazole IV 40 daily
4. Rifaximin 200mg via NG Q8hrs
5. Spironolactone 50mg NG Daily
6. Vancomycin 1000 IV Q8
7. Zosyn 4.5Gm q6hrs ___. Norepinephrine 4mg -8mg Continuous infusion
9. Propofol (as needed for sedation)
10.Vitamin D 1000 daily
11. Vitamin C 500 daily
12. Zofran IV 4mg q8hrs
13. Lasix 80mg NG daily
14. Albuterol Nebs  
15. Potassium 20mEq NG BID
16. Oxycodone as needed 10mg q2hrs for pain

 
Discharge Medications:
1. rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
2. spironolactone 50 mg Tablet Sig: One (1) Tablet PO once a 
day: Please take one 50mg tablet and one 100mg tablet, for a 
total of 150mg of spironolactone every day.
Disp:*30 Tablet(s)* Refills:*2*
3. spironolactone 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily): Please take a total of 150mg spironolactone a day.
Disp:*30 Tablet(s)* Refills:*2*
4. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO BID (2 
times a day).
Disp:*1800 ML(s)* Refills:*2*
5. furosemide 40 mg Tablet Sig: 1.5 Tablets PO QAM (once a day 
(in the morning)): Please take 60mg ___ tablets) of lasix in 
the morning and 40mg (1 tablet) of lasix in the evening.
Disp:*90 Tablet(s)* Refills:*2*
6. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. iron  Oral
8. Zofran  Oral
9. cholecalciferol (vitamin D3) 400 unit Tablet Sig: 2.5 Tablets 
PO DAILY (Daily).  
10. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___  Inhalation every ___ hours as needed for shortness of 
breath or wheezing.
Disp:*1 inhaler* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Aspiration Pneumonia
2. Hepatic encephalopathy
3. Cirrhosis
4. Hydrothorax

 
Discharge Condition:
Alert, oriented x3
Self ambulating

 
Discharge Instructions:
You were transferred to ___ because of your breathing, 
confusion, and swelling in your extremities.  You were intubated 
in the ICU and treated with antibiotics for a pneumonia.  You 
were extubated successfully.  Your confusion and swelling is due 
to your cirrhosis, liver disease.  We started you on two 
medications called lactulose and rifaximin.  These medications 
will help prevent confusion.  Lactulose will cause you to have 
increased stools, you should have at least 3 bowel movements per 
day.  We also started you spironolactone and increased your 
lasix dose, these are water pills that should help reduce the 
amount of swelling you have.  While you were here we also 
started a transplant work up.  You have an appointment to follow 
up with Dr. ___ below) in the Transplant clinic.
.
We have made the following changes to your medications:
1. Start lactulose, titrate to at least 3 bowel movements per 
day
2. Start rifaximin
3. Start sprinolactone
4. Increase lasix from 40mg daily to 60mg in the morning and 
40mg in the afternoon
5. Stop oxycodone, because of your liver disease this will make 
you sleepy and confused
6. Albuterol as needed for wheezing
.
You can continue the rest of your medications.
 
Followup Instructions:
___